US04698337
A solution of 2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetic acid (syn isomer, 1.5 g.), N,N-dimethylformamide (0.40 g.) and phosphoryl chloride (0.84 g.) in ethyl acetate (15 ml.) and a solution of 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.77 g.) and trimethylsilylacetamide (3.93 g.) in ethyl acetate (25 ml.) were treated in a similar manner to that of Example 17 (1) to give 7-[2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.25 g.).

reactant | 2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetic acid | 1.5 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(F)(F)F | C8H6F3N3O4S
reactant | phosphoryl chloride | 0.84 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.77 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O | C12H14N6O3S2
reactant | trimethylsilylacetamide | 3.93 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.40 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.25 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)=NOCC(F)(F)F | C20H18F3N9O6S3
